** LoadMotor **

.subckt LOAD_constant_power speed  params: M=1m W=5
BGload speed 0 i=if(abs(v(speed))>W,W*M/v(speed), if(v(speed)>=0, M, -1*M)) Rpar=1G Cpar=1p
.ends

.subckt LOAD_constant_torque  speed Params: M=1m
* [M]=Nm
Iload speed 0 {M}
.ends

.subckt LOAD_constant_speed speed  Params: W=1m
* [W]=rad/sec
Vload speed 0 {W}
.ends

.subckt LOAD_R  speed Params: M=1m N=2000 Tau=10s
* [M]=Nm
C speed 0 {Tau/(N*pi/30/M)} Rpar={N*pi/30/M} Rser={N*pi/300/M} 
.ends



